US07572809B2
Similar procedure as described in example 131 was used, starting from (1-chloro-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine and 4-tert-butyl-phenylboronic acid to give [1-(4-tert-butyl-phenyl)-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine. LC-MS m/e 357(MH+).

reactant | (1-chloro-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC=CC=C12)NC1=NNC(=C1)C | C13H11ClN4
reactant | 4-tert-butyl-phenylboronic acid | C(C)(C)(C)C1=CC=C(C=C1)B(O)O | C10H15BO2
product | [1-(4-tert-butyl-phenyl)-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine | C(C)(C)(C)C1=CC=C(C=C1)C1=NC(=CC2=CC=CC=C12)NC1=NNC(=C1)C | C23H24N4
